US04298735
(a) Synthesis of N10 -Trifluoroacetylpteroic Acid
Pteroic acid (130 mg) was refluxed with trifluoroacetic anhydride for 6 hours at which time dissolution was complete. The solution was evaporated, under reduced pressure, and triturated with water (1 ml) to give a yellow solid. The amorphous material was washed 3 times with 5 ml portions of water, centrifuged each time, and dried in vacuo overnight.

reactant | Pteroic acid | 130 mg | C(C1=CC=C(NCC2=CN=C3N=C(N)NC(=O)C3=N2)C=C1)(=O)O | C14H12N6O3
reactant | trifluoroacetic anhydride | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
product | N10 -Trifluoroacetylpteroic Acid | FC(C(=O)N(C1=CC=C(C(=O)O)C=C1)CC1=CN=C2N=C(N)NC(=O)C2=N1)(F)F | C16H11F3N6O4
